US07491684B2
Preparation of Alpha-[1-Methyl-1-Butenyl]-Cyclopentanemetanol
To a dry 2 liter multi-neck round bottom flask fitted with an air stirrer, nitrogen inlet condenser and an addition funnel 800 ml of 2 M of cyclopentyl magnesium chloride was added and stirred. 139 g of 2-methyl-2-pentenal was added over the next 90 minutes. The reaction mixture was aged for another 90 minutes and the first sample was taken. 25 minutes later the reaction mixture was quenched with water, aged for 30 minutes and the organic layer was separated and washed with 2 one liter portions of water. The NMR spectrum of the Alpha-[1-Methyl-1-Butenyl]-Cyclopentanemetanol is as follows: 1.00 ppm (s, 3H); 1.1-1.2 ppm (s, 1H); 1.4-1.5 ppm (s, 2H); 1.5-1.7 ppm (m, 4H); 1.8 ppm (s, 1H); 2.1 ppm (m, 3H); 3.7 ppm (d, 1H); 5.4 ppm (t, 1H)

reactant | 2-methyl-2-pentenal | 139 g | CC(C=O)=CCC | C6H10O
reactant | cyclopentyl magnesium chloride | 2 M, 800 ml | C1(CCCC1)[Mg]Cl
product | Alpha-[1-Methyl-1-Butenyl]-Cyclopentanemetanol | CC(=CCC)C(O)C1CCCC1 | C11H20O
